US06433175B1
5-Methoxyindole-3-carboxaldehyde
To stirred dimethylformamide is added dropwise phosphorus oxychloride. The mixture is stirred for 10 min and a solution of 5-methoxyindole in dimethylformamide is added dropwise. The mixture is heated to 40° C. for 45 min, cooled to room temperature and then treated with a solution of sodium hydroxide in water. The mixture is heated to 50° C. for 10 min, cooled to room temperature, poured onto crushed ice and filtered. The filter cake is recrystallised (methanol) to give the product as a white solid.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methoxyindole | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Methoxyindole-3-carboxaldehyde | COC=1C=C2C(=CNC2=CC1)C=O | C10H9NO2
